2160-09-02 10:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   D/c'd Esmolol drip overnight as receiving PO metoprolol
   Continued Pip/Taz given h/o pseudomonas, added Vanc and cipro for
   concern of pneumonia/infiltrate on CXR
   This morning hypoxic to 80s, sm amout of blood-tinged fluid, gave
   atrovent neb and O2 sat of mid 90s.  Has required 100% Fi02 since
   yesterday afternoon.
   ECHO [**9-1**] showed EF 55%, nl leaflets, no effusion.  Limited study so no
   information on Right Heart strain.  Can repeat if need more
   information.
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2160-9-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-2**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.1
C (95.2
   Tcurrent: 35.1
C (95.2
   HR: 75 (74 - 75) bpm
   BP: 97/54(64) {97/54(64) - 97/54(64)} mmHg
   RR: 15 (15 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             216 mL
   PO:
             TF:
   IVF:
   216 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    200 mL
   Urine:
   200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     16 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: 7.52/30/69/25/1
   PaO2 / FiO2: 138
   Physical Examination
   General Appearance: Thin, supine, NAD
   Head, Ears, Nose, Throat: Normocephalic, Trach in place, hard collar in
   place, perioral scabbing
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Sm crackles L base, clear on right
   Abdominal: Soft, No(t) Distended, No(t) Tender: , No(t) Obese
   Extremities: No edema, no pain in calves with pressure bilaterally.
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , Back dressing in place, no surrounding
   erythema
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed, Speech
   fluent
   Labs / Radiology
   59 K/uL
   12.5 g/dL
   114 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   18 mg/dL
   106 mEq/L
   137 mEq/L
   36.8 %
   10.2 K/uL
        [image002.jpg]
                             [**2160-8-26**]  03:59 AM
                             [**2160-8-29**]  01:40 AM
                             [**2160-8-29**]  07:25 AM
                             [**2160-8-29**]  01:44 PM
                             [**2160-8-30**]  09:13 AM
                             [**2160-8-30**]  05:49 PM
                             [**2160-8-31**]  04:17 AM
                             [**2160-9-1**]  07:46 PM
                             [**2160-9-2**]  06:15 AM
                             [**2160-9-2**]  07:36 AM
   WBC
   7.6
   12.0
   7.5
   10.8
   10.0
   10.2
   Hct
   31.5
   28.4
   26.9
   28.2
   26.1
   27.8
   33.9
   36.5
   36.8
   Plt
   66
   63
   63
   53
   62
   54
   46
   59
   Cr
   0.8
   0.9
   0.8
   0.9
   0.8
   0.9
   TropT
   0.03
   0.05
   TCO2
   25
   Glucose
   163
   105
   133
   131
   113
   114
   Other labs: PT / PTT / INR:13.4/27.8/1.1, CK / CKMB /
   Troponin-T:34/3/0.05, ALT / AST:59/23, Alk Phos / T Bili:60/0.5,
   Amylase / Lipase:24/22, Differential-Neuts:87.3 %, Band:0.0 %,
   Lymph:9.8 %, Mono:2.3 %, Eos:0.4 %, D-dimer:1776 ng/mL, Fibrinogen:566
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:300 IU/L, Ca++:8.1
   mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   [**9-1**] Sputum showed prelim 1+ GNRs
   [**9-1**] Urine cx, blood cx pending
   [**8-28**] E. Coli 0157H7 negative
   [**8-27**] blood cx pending
   [**8-22**] Sputum grew pseudomonas
   Imaging: Echo [**9-1**] as above
   CXR [**9-2**]- small change, no clear infiltrate per my read
   Assessment and Plan
   A/P: 66 yo man with history of papillary thyroid cancer metastatic to
   the brain, bone, soft tissues, and lung s/p T1-T12 palliative
   decompression and fusion on [**2160-8-7**], s/p recent MICU stay for BRBPR,
   now transferred back to MICU for Afib with RVR.
   # Afib with RVR.  Has had intermittent Afib in past, on amio for rhythm
   control as well as metoprolol.  Metoprolol just restarted today.
   Precipitant now unclear - hypovolemia, hypervolemia, infection/sepsis,
   PE, other pulmonary disease, hyperthyroidism.  Appears slightly dry on
   exam (crackles asymmetric).  Getting T4 replacement though not
   currently, appears to have been lost during transfer (last [**8-21**]).  Has
   been on dilt gtt in past during admit.  Did not respond to 10 IV dilt
   and 10 IV lopressor.  BP holding >90.  BP responsive to 500 cc bolus.
   Initially on esmolol gtt, now d/c
d and getting Metoprolol PO.
   - Echo showed no effusion, EF 55%, leaflets normal
   - TSH 15, see Hypothyroidism below
   - Infection workup, f/u cx
   - F/u LENIs to eval for DVT though would be quite difficult to
   anticoagulate (recent GIB and h/o hemoptysis).  If LENIs negative, will
   stop workup given issues with CTA.  If LENIs possible, will discuss
   filter placement vs anticoagulation.
   # Hypoxemia.  Requiring more O2 than prior transfer (50% TM at the
   time, now 70-100%).  Desat to 80s on [**9-2**], improved after Atrovent
   neb.
   - CXR shows ? Infiltrate, possibly small amount of effusion,
   - Consider diuresis if CXR wet, though appears dry on exam.
   - ABG [**9-2**] (7.52/30/69/25/1) showed alkalosis.
   - Consider PE workup as above, though CTA unable to be done (given
   I-allergy); would be very difficult to anticoagulate.
   - Decrease FiO2 as able
   #Metastatic papillary CA: S/p recent T1-T12 palliative decompression
   and fusion on [**2160-8-7**] with known brain, bone and soft tissue mets.
   -No active treatment for now, will discuss long-term plan of care with
   Neurosurgery today
   # LGIB: In the setting of anticoagulation with Lovenox (60mg [**Hospital1 **]) for a
   history of PE in the past.  3 unit PRBC transfusion but now stable.
   Ulcers on colonoscopy, bx pending.
   - Daily Hct.
   - followup path.
   # Pseudomonas VAP: Pt with Pseudomonas in sputum from [**8-25**] and on Zosyn
   since [**8-23**]. Now at end 10 day course.
   -          Will continue course for now given hypoxemia/instability.
   -          Added vanc/cipro yesterday, will d/c cipro today, f/u cx and
   readdress Vanc pending results
   # Delirium: Pt with history of delirium that began this admission.
   Previously had been working.
   - Reorient often
   - Zyprexa prn agitation
   # Leukocytosis: Stable in the 10K range.
   - Will culture as above.
   # h/o PE: Pt with history of DVT/PE in [**2159-1-22**]. On anticoag at
   therapeutic dosing earlier during admit (when had GIB); also with
   history of hemoptysis presumably from lung mets; also known brain mets.
   -Hold therapeutic anticoagulation for now as above.  Would be high risk
   if restarted given the above.  Continue ppx dosing.
   #Thrombocytopenia: Plt count recovering from nadir of 38LK --> 89K, 59
   on [**9-2**]
   Unclear if thrombocytopenia was medication related. Stable.
   - Continue to monitor
   #Hypothyroidism.  Current transfer meds do not include levothyroxine.
   Unclear how long this has been off.
   -Continue Synthroid at home dosing; will look into dosing of
   levothyroxine. -- held since transfer on [**8-21**] (not reordered in
   transfer orders).
   #Prophy: Pneumoboots, HSQ, PPI
   #Access: 2 20 gauge peripheral IVs
   #FEN: restart tube feeds via J Tube.
   #Code: FULL
   #Communication: Wife,[**Telephone/Fax (1) 4202**]
   # Dispo: back to NSG if rate controlled in AM.
   ICU Care
   Nutrition: Tube feeds per Nutrition recs, held this AM [**2-23**] respiratory
   distress, now restarted
   Glycemic Control:
   Lines: PIV x2
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU this morning, will reevaluate this afternoon and may
   be transferred out to floor or Neuro step down unit if vitals stable.

2160-09-03 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2160-9-2**] 09:00 AM
   Leni's
   LENIs negative.
   FiO2 down to 50% with sats in mid-90s.
   BNP was 1727 with no baseline known. In setting of better sats and not
   wet on exam did not give lasix.
   Cipro was d/c'd.
   Synthroid dose was changed to 100mcg IV for more stable dosing and
   better absorption.
   Midline/PICC ordered and not done.
   Neurosurgery to take patient today with med consult.
   [**9-3**] Tachy to 180s, initially responsive 5 mg IV Lopressor with rate in
   80s, was repeated x1.  Also received 750 mL bolus, after which rate
   stable in 70s.  Pt denied CP, SOB throughout.
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2160-9-2**] 07:07 PM
   Vancomycin - [**2160-9-2**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-3**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 85 (69 - 94) bpm
   BP: 106/58(69) {83/36(48) - 120/59(71)} mmHg
   RR: 24 (15 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,382 mL
                                                                    502 mL
   PO:
             TF:
                                                                    761 mL
                                                                    379 mL
   IVF:
                                                                    739 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  3,305 mL
                                                                    680 mL
   Urine:
                                                                  3,305 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -923 mL
                                                                   -178 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 96%
   FiO2= 50%
   ABG: 7.52/30/69//1
   PaO2 / FiO2: 138
   Physical Examination
   Gen: Awake, alert
   HEENT: Eyes open, trach in place, hard collar on
   Chest: CTAB anteriorly
   CV: RRR, nl S1S2
   Abd: soft, nt
   Ext: no edema
   Skin: warm and dry
   Neuro/psych: speech fluent, more alert than yesterday
   Labs / Radiology
   62 K/uL
   11.9 g/dL
   114 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   18 mg/dL
   106 mEq/L
   137 mEq/L
   34.6 %
   10.5 K/uL
        [image002.jpg]
                             [**2160-8-29**]  07:25 AM
                             [**2160-8-29**]  01:44 PM
                             [**2160-8-30**]  09:13 AM
                             [**2160-8-30**]  05:49 PM
                             [**2160-8-31**]  04:17 AM
                             [**2160-9-1**]  07:46 PM
                             [**2160-9-2**]  06:15 AM
                             [**2160-9-2**]  07:36 AM
                             [**2160-9-2**]  01:50 PM
                             [**2160-9-3**]  02:10 AM
   WBC
   7.5
   10.8
   10.0
   10.2
   10.5
   Hct
   26.9
   28.2
   26.1
   27.8
   33.9
   36.5
   36.8
   34.6
   Plt
   63
   53
   62
   54
   46
   59
   62
   Cr
   0.8
   0.9
   0.8
   0.9
   TropT
   0.03
   0.05
   0.03
   TCO2
   25
   Glucose
   133
   131
   113
   114
   Other labs: PT / PTT / INR:13.4/27.8/1.1, CK / CKMB /
   Troponin-T:30/3/0.03, ALT / AST:59/23, Alk Phos / T Bili:60/0.5,
   Amylase / Lipase:24/22, Differential-Neuts:87.3 %, Band:0.0 %,
   Lymph:9.8 %, Mono:2.3 %, Eos:0.4 %, D-dimer:1776 ng/mL, Fibrinogen:566
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:300 IU/L, Ca++:8.1
   mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   A/P: 66 yo man with history of papillary thyroid cancer metastatic to
   the brain, bone, soft tissues, and lung s/p T1-T12 palliative
   decompression and fusion on [**2160-8-7**], s/p recent MICU stay for BRBPR,
   now transferred back to MICU for Afib with RVR.
   # Afib with RVR.  Has had intermittent Afib in past, on amio for rhythm
   control as well as metoprolol.  Metoprolol just restarted today.
   Precipitant now unclear - hypovolemia, hypervolemia, infection/sepsis,
   PE, other pulmonary disease, hyperthyroidism.  Appears slightly dry on
   exam (crackles asymmetric).  Getting T4 replacement though not
   currently, appears to have been lost during transfer (last [**8-21**]).  Has
   been on dilt gtt in past during admit.  Did not respond to 10 IV dilt
   and 10 IV lopressor.  BP holding >90.  BP responsive to 500 cc bolus.
   Initially on esmolol gtt, now d/c
d and getting Metoprolol PO.
   - Episode of a. fib with rapid rates this morning as above, responsive
   to fluid and lopressor
   - Increase amiodarone to 100 mg [**Hospital1 **] [**9-3**]
   - Continue metoprolol at current dosing
   - Echo showed no effusion, EF 55%, leaflets normal
   - TSH 15, see Hypothyroidism below
   - Infection workup, f/u cx
   - LENIs negative [**9-2**], pt has iodine contrast allergy and post-op
   hardware, decreasing utility of CTA.  Also has decreased O2
   requirement.
   # Hypoxemia.  Requiring more O2 than prior transfer (50% TM at the
   time, now 70-100%).  Desat to 80s on [**9-2**], improved after Atrovent
   neb.
   - CXR shows ? Infiltrate, possibly small amount of effusion,
   - Pt reports he is thirsty and appears dry on exam.
   - ABG [**9-2**] (7.52/30/69/25/1) showed alkalosis.
   - Consider PE workup as above, though CTA unable to be done (given
   I-allergy); would be very difficult to anticoagulate.
   - FiO2 down to 50% today, continue to monitor
   - BNP 1249 down from 1727
   #Metastatic papillary CA: S/p recent T1-T12 palliative decompression
   and fusion on [**2160-8-7**] with known brain, bone and soft tissue mets.
   -No active treatment for now, will discuss long-term plan of care with
   Neurosurgery today
   # LGIB: In the setting of anticoagulation with Lovenox (60mg [**Hospital1 **]) for a
   history of PE in the past. 3 unit PRBC transfusion but now stable.
   Ulcers on colonoscopy, bx pending.
   - Daily Hct.
   - followup path- should be available [**9-4**].
   # Pseudomonas VAP: Pt with Pseudomonas in sputum from [**8-25**] and on Zosyn
   since [**8-23**]. [**9-2**] end 10 day course.
   -          Continued Zosyn for now given hypoxemia/instability.
   -          Will plan on Zosyn through [**9-6**] for 14 day course
   -          Added vanc/cipro yesterday, will d/c cipro [**9-2**]
   -          Sputum from [**9-1**] showing only sparse GNRs as of [**9-3**]; will
   d/c  Vanc and can restart  if cultures change
   # Delirium: Pt with history of delirium that began this admission.
   Previously had been working.
   - Reorient often
   - Zyprexa prn agitation
   - Will decrease oxycodone to q6 from q4
   # Leukocytosis: Stable in the 10K range.
   - Will culture as above.
   # h/o PE: Pt with history of DVT/PE in [**2159-1-22**]. On anticoag at
   therapeutic dosing earlier during admit (when had GIB); also with
   history of hemoptysis presumably from lung mets; also known brain mets.
   -Hold therapeutic anticoagulation for now as above.  Would be high risk
   if restarted given the above.  Continue ppx dosing.
   #Thrombocytopenia: Plt count recovering from nadir of 38LK --> 89K, 59
   on [**9-2**]
   Unclear if thrombocytopenia was medication related. Stable.
   - Continue to monitor
   #Hypothyroidism.  Current transfer meds do not include levothyroxine.
   Unclear how long this has been off.
   -          Initially continued Synthroid at home dosing; will look into
   dosing of levothyroxine. -- held since transfer on [**8-21**] (not reordered
   in transfer orders).
   -          Now changed to 100 mg IV daily to ensure consistent dosing
   #Prophy: Pneumoboots, HSQ, PPI
   #Access: 2 20 gauge peripheral IVs
   #FEN: Continue feeds via J Tube.  Had speech/swallow [**9-3**], difficult to
   assess safety, written for video on [**9-5**].
   #Code: FULL
   #Communication: Wife,[**Telephone/Fax (1) 4202**]
   # Dispo: Callout to NSG stepdown with tele and medicine consult later
   today

2160-09-04 05:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   Per neurosurgery, DC cervical collar
   Swallow study yesterday, scheduled for video on [**9-5**]
   Amio Increased to 100 [**Hospital1 **]
   Increased TF to probalance at 70/hr
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2160-9-2**] 07:07 PM
   Nafcillin - [**2160-9-3**] 06:00 AM
   Vancomycin - [**2160-9-3**] 09:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2160-9-3**] 12:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2160-9-3**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2160-9-4**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-9-4**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 84 (66 - 180) bpm
   BP: 100/51(63) {60/15(27) - 110/69(74)} mmHg
   RR: 18 (15 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,151 mL
                                                                    406 mL
   PO:
                                                                     60 mL
             TF:
                                                                  1,261 mL
                                                                    348 mL
   IVF:
                                                                  1,620 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                  2,915 mL
                                                                    280 mL
   Urine:
                                                                  2,915 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    236 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   Gen: Awake, alert, NAD
   HEENT: Trach in place, oropharynx moist
   Chest: Coarse BS bl
   CV: RRR, no murmur
   Abd: soft, NT
   Ext: no edema
   Skin: warm and dry
   Labs / Radiology
   50 K/uL
   11.7 g/dL
   157 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.7 mEq/L
   15 mg/dL
   106 mEq/L
   138 mEq/L
   34.6 %
   9.2 K/uL
        [image002.jpg]
                             [**2160-8-29**]  01:44 PM
                             [**2160-8-30**]  09:13 AM
                             [**2160-8-30**]  05:49 PM
                             [**2160-8-31**]  04:17 AM
                             [**2160-9-1**]  07:46 PM
                             [**2160-9-2**]  06:15 AM
                             [**2160-9-2**]  07:36 AM
                             [**2160-9-2**]  01:50 PM
                             [**2160-9-3**]  02:10 AM
                             [**2160-9-4**]  04:02 AM
   WBC
   7.5
   10.8
   10.0
   10.2
   10.5
   9.2
   Hct
   28.2
   26.1
   27.8
   33.9
   36.5
   36.8
   34.6
   34.6
   Plt
   63
   53
   62
   54
   46
   59
   62
   50
   Cr
   0.8
   0.9
   0.8
   0.9
   0.8
   0.7
   TropT
   0.03
   0.05
   0.03
   TCO2
   25
   Glucose
   133
   131
   113
   114
   149
   157
   Other labs: PT / PTT / INR:13.6/35.5/1.2, CK / CKMB /
   Troponin-T:30/3/0.03, ALT / AST:65/22, Alk Phos / T Bili:59/0.5,
   Amylase / Lipase:24/22, Differential-Neuts:87.3 %, Band:0.0 %,
   Lymph:9.8 %, Mono:2.3 %, Eos:0.4 %, D-dimer:1776 ng/mL, Fibrinogen:566
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:248 IU/L, Ca++:8.1
   mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 A/P: 66 yo man with history of papillary thyroid cancer metastatic to
   the brain, bone, soft tissues, and lung s/p T1-T12 palliative
   decompression and fusion on [**2160-8-7**], s/p recent MICU stay for BRBPR,
   now transferred back to MICU for Afib with RVR.
   # Afib with RVR.  Has had intermittent Afib in past, on amio for rhythm
   control as well as metoprolol.  Metoprolol just restarted today.
   Precipitant now unclear - hypovolemia, hypervolemia, infection/sepsis,
   PE, other pulmonary disease, hyperthyroidism.  Appears slightly dry on
   exam (crackles asymmetric).  Getting T4 replacement though not
   currently, appears to have been lost during transfer (last [**8-21**]).  Has
   been on dilt gtt in past during admit.  Did not respond to 10 IV dilt
   and 10 IV lopressor.  BP holding >90.  BP responsive to 500 cc bolus.
   Initially on esmolol gtt, now d/c
d and getting Metoprolol PO. [**9-3**]
   episode of  a. fib with rapid rates, responsive to fluid and lopressor
   - No recurrence of a fib in 24 hrs, continue to monitor
   - Continue amiodarone at 100 mg [**Hospital1 **] ([**9-3**])
   - Continue metoprolol at current dosing
   - Echo showed no effusion, EF 55%, leaflets normal
   - TSH 15, see Hypothyroidism below
   - Infection workup, f/u cx
   - LENIs negative [**9-2**], pt has iodine contrast allergy and post-op
   hardware, decreasing utility of CTA.  Also has decreased O2
   requirement.
   # Hypoxemia.  Requiring more O2 than prior transfer (50% TM at the
   time, now 70-100%).  Desat to 80s on [**9-2**], improved after Atrovent
   neb.  O2 requirement decreased to 50% TM on [**9-3**]
   - Now ranging from 50-70% FiO2 trach mask, stable
   - CXR shows ? Infiltrate, possibly small amount of effusion,
   - I/O even
   - continue to monitor, atrovent nebs as needed
   - Consider PE workup as above, though CTA unable to be done (given
   I-allergy); would be very difficult to anticoagulate.
   - BNP 1249 ([**9-3**]) down from 1727
   #Metastatic papillary CA: S/p recent T1-T12 palliative decompression
   and fusion on [**2160-8-7**] with known brain, bone and soft tissue mets.
   -No active treatment for now, planning on d/c to rehab in next several
   days
   # LGIB: In the setting of anticoagulation with Lovenox (60mg [**Hospital1 **]) for a
   history of PE in the past. 3 unit PRBC transfusion but now stable.
   Ulcers on colonoscopy, bx pending.
   - Daily Hct.
   - Path showed no malignancy, but acute and chronic inflammation
   consistent with ulcer
   # Pseudomonas VAP: Pt with Pseudomonas in sputum from [**8-25**] and on Zosyn
   since [**8-23**]. [**9-2**] end 10 day course.
   -          Continued Zosyn on readmission to MICU given
   hypoxemia/instability.
   -          Has now received 13 days of Zosyn, will d/c as no continued
   signs of infection.
   -          Sputum from [**9-1**] showing only sparse GNRs as of [**9-3**];
   d/c
d   Vanc as no change in cultures after 48 hrs
   # Delirium: Pt with history of delirium that began this admission.
   Previously had been working.
   - Seems improved over last 2 days, though still occasionally confused
   - Reorient often
   - Zyprexa prn agitation
   - Will decrease oxycodone to q6 from q4
    # Leukocytosis: Stable in the 10K range.
   - F/u pending cx
   # h/o PE: Pt with history of DVT/PE in [**2159-1-22**]. On anticoag at
   therapeutic dosing earlier during admit (when had GIB); also with
   history of hemoptysis presumably from lung mets; also known brain mets.
   -Hold therapeutic anticoagulation for now as above.  Would be high risk
   if restarted given the above.  Continue ppx dosing.
   #Thrombocytopenia: Plt count recovering from nadir of 38LK --> 89K, 59
   on [**9-2**]
   Unclear if thrombocytopenia was medication related. Stable.
   - Continue to monitor
   #Hypothyroidism.  Meds on transfer did not include levothyroxine.
   Unclear how long this has been off.
   -                 Initially continued Synthroid at home dosing; will
   look into dosing of levothyroxine. -- held since transfer on [**8-21**] (not
   reordered in transfer orders).  Given 100 mg IV daily to ensure
   consistent dosing.
   -                 Changed to 200 mcg daily on [**9-4**] given anticipated
   discharge to rehab
   #Prophy: Pneumoboots, HSQ, PPI
   #Access: 2 20 gauge peripheral IVs
   #FEN: Continue feeds via J Tube.  Had speech/swallow [**9-3**], difficult to
   assess safety, written for video on [**9-5**].  Increased tube feeds to
   Beneprotein at 70 mL/hr.
   #Code: FULL
   #Communication: Wife,[**Telephone/Fax (1) 4202**]
   # Dispo: Callout to NSG [**Telephone/Fax (1) 4303**] with tele and medicine consult later
   today
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2160-9-3**] 04:00 PM 60 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-9-2**] 10:52 AM
   Prophylaxis:
   DVT: pneumoboots (d/c heparin)
   Stress ulcer:  lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Called out to Neurosurgery [**Last Name (LF) 4303**], [**First Name3 (LF) 178**] plan on Medicine
   consult, awaiting bed.
   ------ Protected Section ------
   Correction to above: Amiodarone now at 200 mg [**Hospital1 **], was on Amiodarone
   200 mg daily on transfer.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 413**], MD
   on:[**2160-9-4**] 14:06 ------